US07504408B2
5-Chloro-7-iodo-1,3-benzodioxol-4-amine (500 mg, 1.68 mmol) and N-methyl-N′-prop-2-yn-1-ylurea (226 mg, 2.02 mmol) in ethyl acetate (10 ml) were cooled in ice-methanol, under an atmosphere of nitrogen, then treated with bis(triphenylphosphine) palladium(II) dichloride (118 mg, 10 mol %) followed by copper(I) iodide (32 mg, 10 mol %) and diisopropylamine (339 mg, 4.03 mmol). The reaction was allowed to warm to room temperature and stirred 3 hr. then filtered through Celite. The filtrate was purified by column chromatography on silica using ethyl acetate as eluent to give N-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N′-methylurea (177 mg, 37%) as an colourless solid; NMR Spectrum:(DMSOd6) 2.55 (d, 3), 4.00 (d, 2H), 5.52 (s, 2H), 5.84 (q, 1H), 6.05 (s, 2H), 6.27 (t, 1H), 6.78 (s, 1H).

reactant | 5-Chloro-7-iodo-1,3-benzodioxol-4-amine | 1.68 mmol, 500 mg | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | N-methyl-N′-prop-2-yn-1-ylurea | 2.02 mmol, 226 mg | CNC(=O)NCC#C | C5H8N2O
reactant | diisopropylamine | 4.03 mmol, 339 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 118 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 32 mg | [Cu]I
product | N-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N′-methylurea | 177 mg, 37% | NC1=C(C=C(C2=C1OCO2)C#CCNC(=O)NC)Cl | C12H12ClN3O3
